US07368578B2
To a mixture of 4-[2-(3-benzyloxy-1-phenyl-1H-pyrazol-4-yl)ethyl]-1,3-thiazole (1.24 g) and acetonitrile (50 mL) was added iodotrimethylsilane (2.04 g) at room temperature. After stirring the reaction mixture at room temperature for 15 hrs., water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography, and eluted with ethyl acetate-hexane (1:2, v/v) to give 1-phenyl-4-[2-(1,3-thiazol-4-yl)ethyl]-1H-pyrazol-3-ol as colorless crystals (0.48 g, yield 52%). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 152-153° C.

reactant | 4-[2-(3-benzyloxy-1-phenyl-1H-pyrazol-4-yl)ethyl]-1,3-thiazole | 1.24 g | C(C1=CC=CC=C1)OC1=NN(C=C1CCC=1N=CSC1)C1=CC=CC=C1 | C21H19N3OS
reactant | acetonitrile | 50 mL | C(C)#N | C2H3N
reactant | iodotrimethylsilane | 2.04 g | I[Si](C)(C)C | C3H9ISi
solvent | water | O | H2O
product | 1-phenyl-4-[2-(1,3-thiazol-4-yl)ethyl]-1H-pyrazol-3-ol | 0.48 g, yield 52% | C1(=CC=CC=C1)N1N=C(C(=C1)CCC=1N=CSC1)O | C14H13N3OS
